US05629406
(4S)-1-{(2S,3S)-3-[N2 -(6-Nitro-2-quinoxalinecarbonyl)-L-asparaginyl]amino-2-hydroxy-4-phenylbutyryl}-4-chloro-N-t-butyl-L-prolinamide
Following a procedure similar to that described in Example 14, but using 490 mg (0.92 mmol) of 1-[3-(L-asparaginyl)amino-2-hydroxy-4-phenylbutyryl]-4-chloro-N-t-butyl-L-prolinamide hydrochloride and 220 mg (1.01 mmol) of 6-nitroquinoxaline-2-carboxylic acid (prepared as described in Preparation 22), 190 mg of the title compound were obtained as a pale yellow powder, melting at 153°-156° C.

reactant | 1-[3-(L-asparaginyl)amino-2-hydroxy-4-phenylbutyryl]-4-chloro-N-t-butyl-L-prolinamide hydrochloride | 0.92 mmol, 490 mg | Cl.N[C@@H](CC(N)=O)C(=O)NC(C(C(=O)N1[C@H](C(=O)NC(C)(C)C)CC(C1)Cl)O)CC1=CC=CC=C1
reactant | 6-nitroquinoxaline-2-carboxylic acid | 1.01 mmol, 220 mg | [N+](=O)([O-])C=1C=C2N=CC(=NC2=CC1)C(=O)O | C9H5N3O4
product | (4S)-1-{(2S,3S)-3-[N2 -(6-Nitro-2-quinoxalinecarbonyl)-L-asparaginyl]amino-2-hydroxy-4-phenylbutyryl}-4-chloro-N-t-butyl-L-prolinamide | 190 mg | [N+](=O)([O-])C=1C=C2N=CC(=NC2=CC1)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C(=O)N1[C@H](C(=O)NC(C)(C)C)C[C@@H](C1)Cl)O)CC1=CC=CC=C1 | C32H37ClN8O8
